US06353010B1
4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole
2-Acetyl-4-methoxybenzoxazole (200 mg), p-toluenesulphonic acid (239 mg), ethylene glycol (0.29 ml) and toluene (10 ml) were heated to reflux under Dean-Stark conditions for 2 h. After cooling to room temperature, the toluene was evaporated, and the residue partitoned between water (20 ml) and ethyl acetate (20 ml). The aqueous phase was extracted with ethyl acetate (20 ml). The combined organic phases were washed with water (40 ml), aqueous sodium bicarbonate (2×40 ml) and water (40 ml), dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 30% ethyl acetate in hexane to yield the title compound as a white solid (129 mg).

reactant | 2-Acetyl-4-methoxybenzoxazole | 200 mg | C(C)(=O)C=1OC2=C(N1)C(=CC=C2)OC | C10H9NO3
reactant | p-toluenesulphonic acid | 239 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 0.29 ml | C(CO)O | C2H6O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Methoxy-2-(2-methyl-[1,3]-dioxolan-2-yl)benzoxazole | 129 mg | COC1=CC=CC2=C1N=C(O2)C2(OCCO2)C | C12H13NO4
